US07183283B2
5-{2-[4-[1-(4-fluoro-2-hydroxy-phenyl)-methanoyl]-piperidine-1-yl]-ethylamino}-2-methyl-2H-pyridazine-3-one
Into a pressure-tight hydrogenating apparatus 5.0 g (0.0123 mole) of 5-{2-[4-(6-fluoro-1,2-benzisoxazole-3-yl)-piperidine-1-yl]-ethylamino}-4-chloro-2-methyl-2H-pyridazine-3-one, 450 ml of a solvent mixture (a 9:1 mixture of methanol and distilled water), 0.56 g (0.014 mole) of sodium hydroxide and 10 g of a palladium/charcoal catalyst (composition: 8% of palladium, 28% of carbon, 64% of water) are weighed in. The reaction mixture is stirred at room temperature under a hydrogen pressure of 10 atm. for 16 hours. The unreacted hydrogen is removed from the apparatus, the reaction mixture is heated to reflux temperature and stirred at this temperature for 5 minutes. The mixture is filtered hot and the palladium charcoal catalyst is washed three times with 33 ml of a 1:1 mixture of methanol and dichloro methane each. The united mother lyes are evaporated to 15 ml and stirred under cooling with icecold water for half an hour. The precipitated crystals are filtered off. The crude product is recrystallized from 2-propanol. Thus 3.12 g of the desired compound are obtained. Yield 67.8%.

reactant | 5-{2-[4-(6-fluoro-1,2-benzisoxazole-3-yl)-piperidine-1-yl]-ethylamino}-4-chloro-2-methyl-2H-pyridazine-3-one | 0.0123 mole, 5.0 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCNC2=C(C(N(N=C2)C)=O)Cl)C=C1 | C19H21ClFN5O2
reactant | methanol | CO | CH4O
reactant | sodium hydroxide | 0.014 mole, 0.56 g | [OH-].[Na+]
catalyst | palladium/charcoal | 10 g | [Pd] | Pd
solvent | water | O | H2O
product | 5-{2-[4-[1-(4-fluoro-2-hydroxy-phenyl)-methanoyl]-piperidine-1-yl]-ethylamino}-2-methyl-2H-pyridazine-3-one | 3.12 g, Yield 67.8% | FC1=CC(=C(C=C1)C(=O)C1CCN(CC1)CCNC1=CC(N(N=C1)C)=O)O | C19H23FN4O3
